US07494992B2
Preparation 164 (3aS,4R,6aS,7R,10R,10aR)-7-(bromoacetyl)-2,2,5,10-tetramethyl-4, 6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate
To a stirred, cooled (0° C.) solution of the product of (3aS,4R,6aS,7R,10S,10aS)-7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate (Preparation 148, 1.8 g) in diethyl ether (30 ml) was added triethylamine (1.8 ml) and trimethylsilyltrifluoromethanesulfonate (2.3 ml). After 30 minutes, N-bromosuccinimide (1.2 g) was added and the reaction mixture was allowed to warm to room temperature over three hours. The reaction mixture was partitioned between saturated aqueous sodium chloride and ethyl acetate. The organic phase was dried (MgSO4), evaporated and purified by flash column chromatography on silica gel using a gradient elution ethyl acetate:hexane (1:9 to 2:8) to give the product as a gum (1.81 g).

reactant | (3aS,4R,6aS,7R,10S,10aS)-7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 1.8 g | C(C)(=O)O[C@@H]1C(=C[C@H]2[C@@H](CC[C@@H]([C@@]23[C@H]1OC(O3)(C)C)C)C(C)=O)C | C19H28O5
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyltrifluoromethanesulfonate | 2.3 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | N-bromosuccinimide | 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (3aS,4R,6aS,7R,10R,10aR)-7-(bromoacetyl)-2,2,5,10-tetramethyl-4, 6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 1.81 g | C(C)(=O)O[C@@H]1C(=C[C@H]2[C@@H](CC[C@H]([C@]23[C@H]1OC(O3)(C)C)C)C(CBr)=O)C | C19H27BrO5
